US06103910
a) (R)-1-Acryloyl-pyrrolidine-2-carboxylic acid benzyl ester
To a solution of 390 mg (1.6 mmol) D-Proline benzyl ester hydrochloride and 0.47 ml (3.4 mmol) triethylamine in 20 ml dichloromethane at 0° C. was added dropwise 0.2 ml (2.4 mmol) acryloyl chloride and stirring continued for 24 h at room temperature. The reaction mixture was then washed sequentially with water, 1 M hydrochloric acid and once more with water, and the aqueous phases back-extracted with dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated in vacuo to afford 420 mg (100%) of the title compound (R)-1-acryloyl-pyrrolidine-2-carboxylic acid benzyl ester as a colorless oil. MS m/e (%): 259 (M+, 25), 124 (100), 91 (25), 70 (21).

reactant | D-Proline benzyl ester hydrochloride | 1.6 mmol, 390 mg | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | triethylamine | 3.4 mmol, 0.47 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.4 mmol, 0.2 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-1-Acryloyl-pyrrolidine-2-carboxylic acid benzyl ester | 420 mg, 100% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C15H17NO3
